Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Acute left-sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ yo man with history remote infarct who
presents with acute onset L sided weakness. 
At 1:40 pm Mr. ___ developed acute onset L sided weakness.
EMS was called and he presented to ___. stroke code was
actived, NIHSS 6 (1 for age, 1 for motor LUE, 1 for motor LLE, 1
L ataxia, 1 L sensory, 1 language). ___ showed R
thalamocapsular IPH. 

Regarding his prior infarct, he states it occurred approx ___
years ago, and was on coumadin until ___ years ago. He has since
been on ASA 81 mg daily. Family states he has no residual
deficits. 
 
Past Medical History:
L frontal infarct
cataracts
HTN
HLD
preDM
 
Social History:
___
Family History:
No family history of stroke. 
 
Physical Exam:
ADMISSION EXAM
Vitals:  T: 98.9 HR: 64 BP: 143/82 RR: 18 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Speech is fluent
with normal grammar and syntax. No paraphasic errors. Naming
intact to high but not low frequency words. Repetition intact.
Comprehension intact to appendicular commands. Unable to read.
Normal prosody.

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation except subtle orbicularis oculi
weakess on L without L lower facial weakness. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4    ___  5  4+ ___    4  4                  
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   1                        
 R  3  2    3    2   1                           
Plantar response was withdrawal bilaterally.

-Sensory:  Unable to distinguish sharp vs dull LUE, able to do 
so
in all other extremities. LT intact throughout. 

- Coordination: L dysmetria with FTN, in proportion to weakness.
No dysmetria on R. 

- Gait: deferred

DISCHARGE PHYSICAL EXAMINATION: 
Vitals: 
Temperature: 98.7 
Heart rate: 52-66 
Blood pressure: 97/62-125/59 
Respiratory rate: ___
Oxygen saturation: 96-98% 

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination: 
Mental status: 
Patient is able to hold conversation without difficulty 
expressing himself and following midline and appendicular 
commands.  There is no deficit noted in speech. 

Cranial Nerves:
Pupils are equal, round, and reactive to light.  There is no 
skew and eyes are midline.  EOM is intact and patient can bury 
sclera.  Patient with intact facial sensation and no droop.  
Patient with no difficulty eating.  Patient can hear without 
difficulty.  Patient's tongue protrudes midline and trapezii are 
elevated symmetrically.  

Motor: 
Patient with left upper pronation and drift with eyes closed.  
Patient with bilateral deltoid 4+/5 and left interosseus muscles 
are 4+/5. Patient with no other motor deficits. 

Sensation: 
Crude touch with no deficit in upper and lower extremities.      
     

DTRs:
___

___: 
No difficulty with finger to nose in bilateral upper 
extremities. 

Gait: 
Deferred

 
Pertinent Results:
MRI brain ___:

Right thalamic intra parenchymal hematoma is again noted.  
Minimal associated subarachnoid blood products present in the 
occipital horns the lateral ventricles. 

 
Brief Hospital Course:
Patient is a ___ with history notable for remote left frontal 
ischemic infarct (previously on warfarin) admitted with 
acute-onset left-sided weakness, found to have acute right 
thalamic intraparenchymal hemorrhage with associated surrounding 
edema and mass effect upon the right basal ganglia and right 
lateral ventricles on CT. Repeat imaging revealed small volume 
intraventricular extension without ventricular enlargement 
suggestive of hydrocephalus. MRI did not reveal underlying 
vascular malformation, although follow-up study recommended in 
___ weeks. Examination revealed subtle left-sided distal upper 
extremity weakness and mild sensory disturbance, with physical 
therapy evaluation recommending discharge to acute rehab. IPH 
thought to be of likely hypertensive etiology.  

AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? (x) Yes - () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. irbesartan 300 mg oral DAILY 
4. MethylPHENIDATE (Ritalin) 10 mg PO DAILY 
5. Simvastatin 80 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Heparin 5000 UNIT SC BID 
Stop taking once discharged from rehabilitation.  
RX *heparin (porcine) 5,000 unit/mL (1 mL) 1 ml 5000 SC Twice 
daily Disp #*60 Cartridge Refills:*1 
2.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour 1 patch Daily Disp #*30 Patch 
Refills:*5 
3.  irbesartan 300 mg oral DAILY  
4.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
5.  MethylPHENIDATE (Ritalin) 10 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right thalamocapsular stroke with intra parenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

During this admission, you were found to have a hemorrhage 
(bleed) in your brain. Thankfully, you have minimal weakness as 
a result of this. To put you in the best position to regain 
maximum strength we are discharging you to ___ 
rehabilitation.  As an outpatient, you will need to follow up 
with an MRI in ___ weeks of the brain to ensure that this bleed 
is stable and to help guide further management. Your main risk 
factor for the bleed is high blood pressure, and this will need 
to be monitored and treated carefully in the future. The MRI 
that you will get might provide further insights into possible 
causes of the bleed. For now, please stop taking your home 
aspirin and simvastatin as these medications could lead to 
increased risk of further bleeding in the brain. These may be 
restarted at a future time.  

Thank you for allowing us to care for you, 
___ Stroke Team

 
Followup Instructions:
___